US04968790
2,5-Anhydro-1,3,4,6,7-pentakis-O-(phenylmethyl)-D-glycero-D-manno-heptitol
An 850 mg portion of 2,5-anhydro-1,3,4-tris-O-(phenylmethyl)-D-glycero-D-manno-heptitol was dissolved in dry dimethylformamide and added to a slurry of 218 mg of sodium hydride in dimethylformamide. After stirring 1 hour, 1.9 ml of benzyl bromide was added, the mixture stirred overnight, 5 ml to methanol added and the solvents evaporated. The residue was taken up in 50 ml of water and 50 ml of dichloromethane, the organic layer separated, washed with water and brine, dried and evaporated to an orange oil. This oil was flash chromatographed, eluting with hexane:ether (5:1). Evaporation of the fractions gave 1.06 g of the desired compound.

reactant | 2,5-anhydro-1,3,4-tris-O-(phenylmethyl)-D-glycero-D-manno-heptitol | C1(=CC=CC=C1)COC[C@@H]1[C@@H](OCC2=CC=CC=C2)[C@H](OCC2=CC=CC=C2)[C@H](O1)[C@H](O)CO | C28H32O6
reactant | sodium hydride | 218 mg | [H-].[Na+]
reactant | benzyl bromide | 1.9 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | methanol | CO | CH4O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 2,5-Anhydro-1,3,4,6,7-pentakis-O-(phenylmethyl)-D-glycero-D-manno-heptitol | 1.06 g | C1(=CC=CC=C1)COC[C@@H]1[C@@H](OCC2=CC=CC=C2)[C@H](OCC2=CC=CC=C2)[C@H](O1)[C@H](OCC1=CC=CC=C1)COCC1=CC=CC=C1 | C42H44O6
